US07745477B2
a) 1-Benzyloxy-2-tert-butyl-4-methyl-benzene
8 g of 2-tert-Butyl-4-methyl-phenol (49 mmol) and 16.36 g of potassium carbonate (58 mmol) were stirred in 120 ml DMF until a suspension was formed. 6.74 ml of benzylchloride were then added dropwise and the reaction mixture was stirred for 24 h at RT. After two hours heating at 60° C., the reaction mixture was cooled to RT, filtered off, diluted with ethyl acetate, and washed with water followed by brine. The organic phase was dried over magnesium sulphate, filtered off and concentrated under vacuo. The residue was purified by flash column chromatography (heptane/AcOEt 98/2) to give 8.647 g of a colorless liquid. MS (ISP) 255.3 (M+H)+.

reactant | 2-tert-Butyl-4-methyl-phenol | 49 mmol, 8 g | C(C)(C)(C)C1=C(C=CC(=C1)C)O | C11H16O
reactant | potassium carbonate | 58 mmol, 16.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylchloride | 6.74 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
product | 1-Benzyloxy-2-tert-butyl-4-methyl-benzene | 8.647 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C)C(C)(C)C | C18H22O
